US03947470
Acylation of 2-(4-chlorophenyl)benzofuran with p-anisoyl chloride followed by demethylation of the 2-(4-chlorophenyl)-3-(4-methoxybenzoyl)benzofuran thus formed by procedures described above gives 2-(4-chlorophenyl)-3-(4-hydroxybenzoyl)benzofuran.

reactant | 2-(4-chlorophenyl)benzofuran | ClC1=CC=C(C=C1)C=1OC2=C(C1)C=CC=C2 | C14H9ClO
reactant | p-anisoyl chloride | C(C1=CC=C(C=C1)OC)(=O)Cl | C8H7ClO2
reactant | 2-(4-chlorophenyl)-3-(4-methoxybenzoyl)benzofuran | ClC1=CC=C(C=C1)C=1OC2=C(C1C(C1=CC=C(C=C1)OC)=O)C=CC=C2 | C22H15ClO3
product | 2-(4-chlorophenyl)-3-(4-hydroxybenzoyl)benzofuran | ClC1=CC=C(C=C1)C=1OC2=C(C1C(C1=CC=C(C=C1)O)=O)C=CC=C2 | C21H13ClO3
